simulator lang=spectre
global 0

ahdl_include "./dut/comparator.va"

V_VDD (VDD 0) vsource dc=0.9
V_VSS (VSS 0) vsource dc=0
// Public feedback uses repeated differential crossings around a non-midrail VINN.
V_VINP (VINP 0) vsource type=pwl wave=[0 0.35 5n 0.35 7n 0.62 11n 0.62 13n 0.29 17n 0.29 19n 0.55 24n 0.55]
V_VINN (VINN 0) vsource dc=0.47
XDUT (VDD VSS VINP VINN OUT_P) comparator

simulatorOptions options evas_profile=balanced

tran tran stop=24n maxstep=80p
save VDD VSS VINP VINN OUT_P
